US07439239B2
10-(8-Phenethyl-8-aza-bicyclo[3.2.1]oct-3-yl)-3-(1H-tetrazol-5-yl)-10H-phenothiazine, 3aa
To a solution of 10-(8-phenethyl-8-aza-bicyclo[3.2.1]oct-3-yl)-10H-phenothiazine-3-carbonitrile, 2aa (10 mg, 29 μmol) in dimethoxyethane was added trimethylsilyl azide (15 μL, 115 μmol) and dibutyltin oxide (1.5 mg), and the mixture was heated in a microwave for 15 min at 150° C. The mixture was allowed to cool to rt, and purified via reverse phase HPLC (eluent: CH3CN in water containing 0.1% TFA) to yield title compound 10-(8-phenethyl-8-aza-bicyclo[3.2.1]oct-3-yl)-3-(1H-tetrazol-5-yl)-10H-phenothiazine, 3aa as a TFA salt and as a mixture of endo and exo isomers. MS m/z (MH+) 481.2.

reactant | 10-(8-phenethyl-8-aza-bicyclo[3.2.1]oct-3-yl)-10H-phenothiazine-3-carbonitrile | C(CC1=CC=CC=C1)N1C2CC(CC1CC2)N2C1=CC=CC=C1SC=1C=C(C=CC21)C#N | C28H27N3S
reactant | trimethylsilyl azide | 115 μmol, 15 μL | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | dibutyltin oxide | 1.5 mg | C(CCC)[Sn](CCCC)=O
solvent | dimethoxyethane | C(OC)COC | C4H10O2
product | 10-(8-phenethyl-8-aza-bicyclo[3.2.1]oct-3-yl)-3-(1H-tetrazol-5-yl)-10H-phenothiazine | C(CC1=CC=CC=C1)N1C2CC(CC1CC2)N2C1=CC=CC=C1SC=1C=C(C=CC21)C2=NN=NN2 | C28H28N6S
